US08309581B2
4-{5-Chloro-2-[1-(3-chloro-benzyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenoxymethyl}-benzoic acid methyl ester
The title compound was prepared in analogy to Example 5, intermediate a, from 5-chloro-2-[1-(3-chloro-benzyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenol (Example 53, intermediate a) and 4-bromomethyl-benzoic acid methyl ester (CAS Reg. No. 2417-72-3). Colorless sticky solid (56%). MS (Turbo Spray): m/z=553.1 (M+H).

reactant | 5-chloro-2-[1-(3-chloro-benzyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1=CC(=CC=C1)Cl)C=C(C(=C2)F)F | C20H12Cl2F2N2O
reactant | 4-bromomethyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
product | 4-{5-Chloro-2-[1-(3-chloro-benzyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenoxymethyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)COC1=C(C=CC(=C1)Cl)C1=NC2=C(N1CC1=CC(=CC=C1)Cl)C=C(C(=C2)F)F)=O | C29H20Cl2F2N2O3
